US05081256
Preparation of 4,4'-dibromo-2,2'-bisbenzimidazolyl biphenyl by prior art method
To a mixture containing 3.0 g of 4,4'-dibromodiphenic acid and 1.8 g of o-phenylene diamine was added 100 g of polyphosphoric acid (85%). The mixture was stirred and heated at 60° C. for 1 hour, 100° C. for 1 hour, and finally at 160° C. for 24 hours. The cooled heterogenous mixture was poured into 2L of distilled water. The procedure was not successful in that the product was identified as an anhydride (IR, MS and elemental analysis). This procedure was repeated using methanesulfonic acid/phosphorus pentoxide and polyphosphoric acid/sulfolane as solvents. The same result was obtained.

reactant | 4,4'-dibromodiphenic acid | 3.0 g | BrC=1C=C(C(=CC1)C=1C(C(=O)O)=CC(=CC1)Br)C(=O)O | C14H8Br2O4
reactant | o-phenylene diamine | 1.8 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | water | O | H2O
solvent | methanesulfonic acid phosphorus pentoxide | CS(=O)(=O)O.O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3
product | 4,4'-dibromo-2,2'-bisbenzimidazolyl biphenyl | BrC1=CC(=C(C=C1)C1=C(C=C(C=C1)Br)C=1NC2=C(N1)C=CC=C2)C=2NC1=C(N2)C=CC=C1 | C26H16Br2N4
